US07592363B2
[2-(2,4-DIMETHYLBENZYL)-3-(4-FLUOROPHENYL)-2H-INDAZOL-7-YL]METHANOL
A solution of methyl 2-(2,4-dimethylbenzyl)-3-(4-fluorophenyl)-2H-indazole-7-carboxylate (0.100 g, 0.25 mmol) and lithium aluminum (0.1 g, 0.25 mmol) in 5 mL THF was stirred at ambient temperature for 1 hour. Excess hydride was decomposed by the addition of 0.1 mL H2O, 0.1 mL 1N NaOH, 0.3 mL H2O and 100 mg of Na2SO4. The solids were filtered and the filtrate concentrated in vacuo to give 0.09 g of product as a light yellow solid.

reactant | methyl 2-(2,4-dimethylbenzyl)-3-(4-fluorophenyl)-2H-indazole-7-carboxylate | 0.25 mmol, 0.100 g | CC1=C(CN2N=C3C(=CC=CC3=C2C2=CC=C(C=C2)F)C(=O)OC)C=CC(=C1)C | C24H21FN2O2
reactant | lithium aluminum | 0.25 mmol, 0.1 g | [Al].[Li]
reactant | hydride | [H-]
reactant | NaOH | 1N, 0.1 mL | [OH-].[Na+]
reactant | Na2SO4 | 100 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.3 mL | O | H2O
solvent | H2O | 0.1 mL | O | H2O
product | [2-(2,4-DIMETHYLBENZYL)-3-(4-FLUOROPHENYL)-2H-INDAZOL-7-YL]METHANOL | 0.09 g | CC1=C(CN2N=C3C(=CC=CC3=C2C2=CC=C(C=C2)F)CO)C=CC(=C1)C | C23H21FN2O
